US05955476
Part A. A solution of L-glutamic acid dimethyl ester (2.6 g, 14.8 mmol), isoamyl nitrite (2.13 mL, 15.9 mmol) and acetic acid (0.22 mL) in benzene (150 mL) is heated to reflux for one hour. The solution is washed with 1N aqueous sulfuric acid, water, saturated sodium hydrogen carbonate solution, water and brine (50 mL each). The solvent is removed in vacuo to yield dimethyl 2-diazopentane-1,5-dioate which can be further purified by column chromatography.

reactant | L-glutamic acid dimethyl ester | 14.8 mmol, 2.6 g | COC([C@@H](N)CCC(=O)OC)=O | C7H13NO4
reactant | isoamyl nitrite | 15.9 mmol, 2.13 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | acetic acid | 0.22 mL | C(C)(=O)O | C2H4O2
solvent | benzene | 150 mL | C1=CC=CC=C1 | C6H6
product | dimethyl 2-diazopentane-1,5-dioate | [N+](=[N-])=C(C(=O)OC)CCC(=O)OC | C7H10N2O4
